US07119120B2
1,3-Bis-(3-trifluoromethyl-phenyl)-urea
In a round bottom flask under nitrogen, α,α,α-trifluro-m-tolyl isocyanate (3 g, 16 mmol) was dissolved in anhydrous dichloromethane (40 mL). 3-(Trifluoromethyl) aniline (2 g, 12.4 mmol) was added through a syringe at room temperature. A precipitate was formed 15 minutes after the completion of the addition. The reaction was left to stir overnight at room temperature. The next day the white solid was collected by filtration, washed with dichloromethane and dried. This solid corresponds to the desired urea. (4.2 g, 97% yield). 1H NMR (400 MHz, DMSO) δ 7.35 (d, 2H), 7.55 (m, 2 H), 7.6 (d, 2H), 8.05 (s, 2H). MS calculated=m/e 348, found=m/e 348.

reactant | α,α,α-trifluro-m-tolyl isocyanate | 16 mmol, 3 g | FC(C1=CC(=CC=C1)N=C=O)(F)F | C8H4F3NO
reactant | 3-(Trifluoromethyl) aniline | 12.4 mmol, 2 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1,3-Bis-(3-trifluoromethyl-phenyl)-urea | 97% yield | FC(C=1C=C(C=CC1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)(F)F | C15H10F6N2O
